US05767131
To a solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (6.31 g, 43.8 mmol) and 4-dimethylaminopyridine (5.60 g, 45.9 mmol) in 100 ml of CH2Cl2 was added dropwise a solution of crude 6-azidohexanoic chloride (7.32 g, 41.7 mmol) in 30 ml of CH2Cl2 at 0° C. The mixture was stirred at 0° C. for 1 hr then at room temperature for 1 hr. The solution was washed with 0.5N aqueous HCl (100 ml), water (100 ml) followed by brine (100 ml) and dried over Na2SO4. After filtration and evaporation of solvent, 5-(6-azidohexanoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione was obtained as a light red oil (12.0 g, 100%).

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 43.8 mmol, 6.31 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 6-azidohexanoic chloride | 41.7 mmol, 7.32 g | N(=[N+]=[N-])CCCCCC(=O)Cl | C6H10ClN3O
catalyst | 4-dimethylaminopyridine | 45.9 mmol, 5.60 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-(6-azidohexanoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | N(=[N+]=[N-])CCCCCC(=O)C1C(OC(OC1=O)(C)C)=O | C12H17N3O5
